US07622583B2
To a mixture of 20 mg of 3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyrazine-2-carboxylic acid, 10 mg of morpholine and 20 μl of DIEA in 1.5 mL of CH2Cl2 was added 32 μL of 1-propanephosphonic acid cyclic anhydride (50% in ethyl acetate). After 3-4 hours the reaction mixture was directly purified via flash column (65% ethyl acetate in hexane) to afford 14 mg of 4-chloro-N-[3-(morpholine-4-carbonyl)-pyrazin-2-yl]-3-trifluoromethyl-benzenesulfonamide as a white powder. MS: (M+H)/z=451.0.

reactant | 3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyrazine-2-carboxylic acid | 20 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=CN1)C(=O)O)C(F)(F)F | C12H7ClF3N3O4S
reactant | morpholine | 10 mg | N1CCOCC1 | C4H9NO
reactant | DIEA | 20 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-propanephosphonic acid cyclic anhydride | 32 μL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-[3-(morpholine-4-carbonyl)-pyrazin-2-yl]-3-trifluoromethyl-benzenesulfonamide | 14 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=NC=CN=C1C(=O)N1CCOCC1)C(F)(F)F | C16H14ClF3N4O4S
